US06548042B2
m-Trimethylsilylbenzylcyanide
A mixture of KCN (5.5 g, 84 mmol), m-trimethylsilylbenzylbromide (5.31 g, 21.8 mmol), tributylamine (0.11 g, 0.59 mmol) and water (12.5 cm3) was stirred overnight. The product was extracted with dichloromethane (3×30 cm3), the extract was filtered through a silica plug (5g) and the solvent was removed under reduced pressure. The residue was distilled to give the product (2.27 g, 55%) as a colorless liquid.

reactant | KCN | 84 mmol, 5.5 g | [C-]#N.[K+]
reactant | m-trimethylsilylbenzylbromide | 21.8 mmol, 5.31 g | C[Si](C=1C=C(CBr)C=CC1)(C)C | C10H15BrSi
catalyst | tributylamine | 0.59 mmol, 0.11 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | water | 12.5 cm3 | O | H2O
product | m-Trimethylsilylbenzylcyanide | 2.27 g, 55% | C[Si](C=1C=C(CC#N)C=CC1)(C)C | C11H15NSi
